US05663297
1.9 g of Z-Asp(OtBu)-Ser(tBu)-OtBu are hydrogenated in 100 ml of methanol in the presence of 0.1 g of Pd/C 10%. After the theoretical amount of hydrogen has been taken up the mixture is filtered and the filtrate is evaporated to dryness. Chromatography on silica gel with methylene chloride/MeOH (98:2) gives 1.28 g (91%) of H-Asp(OtBu)-Ser(tBu)-OtBu, MS: 389 (M+H)+.

reactant | Z-Asp(OtBu)-Ser(tBu)-OtBu | 1.9 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H42N2O8
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | H-Asp(OtBu)-Ser(tBu)-OtBu | 1.28 g, 91% | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C19H36N2O6
